US06727245B2
The solution of 2-bromomethyl-4-[3-(3,5-dichlorobenzoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (105 mg) and 2-methylimidazole (171 mg) in N,N-dimethylformamide (10 ml) was stirred for 3 hours at 70° C. and 1 hour at 80° C. The mixture was poured into aqueous sodium hydrogencarbonate and extracted by ethyl acetate (100 ml). The organic layer was evaporated and chromatographed to obtain 2-[(2-methylimidazol-1-yl)-methyl]-4-[3-(3,5-dichlorobenzoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (50 mg) in brown powder form.

reactant | 2-bromomethyl-4-[3-(3,5-dichlorobenzoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 105 mg | BrCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)N=CC=C2 | C21H13BrCl2N4O2
reactant | 2-methylimidazole | 171 mg | CC=1NC=CN1 | C4H6N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[(2-methylimidazol-1-yl)-methyl]-4-[3-(3,5-dichlorobenzoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 50 mg | CC=1N(C=CN1)CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)N=CC=C2 | C25H18Cl2N6O2
